US07732613B2
C) 4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine
A mixture of 4-(2-fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline (612 mg, 1.8 mmol), Zn powder (2.0 g) and NH4Cl (1.4 g) in MeOH (25 mL) and THF (25 mL) was heated at reflux temp. overnight with stirring. To this mixture was added DMF (45 mL) and water (20 mL), stirred for 10 minutes, and the solid was filtered. The filtrate solution was concentrated in vacuo, and the residue was purified by preparative HPLC to afford the product (230 mg, 41%) as a brown solid. 1H NMR (CDCl3) δ 8.38 (d, 1H, J=5.5 Hz), 7.52 (s, 1H), 7.32 (s, 1H), 6.91 (t, 1H, J=8.8 Hz), 6.44 (dd, 1H, J=11.6, 2.2 Hz), 6.38 (dd, 1H, J=8.2, 2.2 Hz), 6.32 (d, 1H, J=5.0 Hz), 3.94 (s, 3H), 3.92 (s, 3H).

reactant | 4-(2-fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline | 1.8 mmol, 612 mg | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)[N+](=O)[O-] | C17H13FN2O5
reactant | NH4Cl | 1.4 g | [NH4+].[Cl-]
reactant | DMF | 45 mL | CN(C)C=O | C3H7NO
reactant | water | 20 mL | O | H2O
solvent | MeOH | 25 mL | CO | CH4O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Zn | 2.0 g | [Zn] | Zn
product | 4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine | 230 mg, 41% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
